US08030438B2
(2) Synthesis of 3,4-bis(diethoxyphosphoryl)thiolane
In ethanol, 2.02 g (6.19 mmols) of 2,3-bis(diethoxyphosphoryl)-1,3-butadiene was dissolved, to which 1.63 g (6.81 mmols) of commercially available sodium sulfide nonahydrate was added, followed by stirring at room temperature for 3 days. After completion of the reaction, the reaction mixture was dried over anhydrous sodium sulfate for 1 hour. Ethyl acetate was added to and the resulting mixture was charged into a silica gel column to dissolve out the specified substance with ethyl acetate. Thereafter, the solvent was removed, and the resulting crude product was purified with a silica gel column (ethyl acetate:chloroform=1:2) to obtain the specified substance in the form of a yellow oil at a yield of 1.88 g (yield: 84.3%).

reactant | 2,3-bis(diethoxyphosphoryl)-1,3-butadiene | 6.19 mmols, 2.02 g | C(C)OP(=O)(OCC)C(=C)C(=C)P(=O)(OCC)OCC | C12H24O6P2
reactant | sodium sulfide nonahydrate | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3,4-bis(diethoxyphosphoryl)thiolane | yield: 84.3% | C(C)OP(=O)(OCC)C1CSCC1P(=O)(OCC)OCC | C12H26O6P2S
